US06914074B2
1-Chloro-6-(2-fluoro-4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 6-(2-fluoro-4-hydroxyphenyl)-2-naphthol (300 mg, 1.18 mmol) and NCS (191 mg, 1.43 mmol) in THF (30 mL) according to method C to yield 170 mg (50%) of yellowish solid: mp 179-180° C.; 1H NMR (DMSO-d6): δ 6.73 (1H, dd, J=12.69 Hz, J=2.44 Hz), 6.75 (1H, dd, J=8.30 Hz, J=2.44 Hz), 7.31 (1H, d, J=8.79 Hz), 7.45 (1H, t, J=9.28 Hz), 7.70-7.72 (1H, m), 7.83 (1H, d, J=8.79 Hz), 7.97 (1H, s), 8.06 (1H, d, J=7.79 Hz), 10.06 (1H, s), 10.48 (1H, s); MS (ESI) m/z287/289 (M−H)−.

reactant | 6-(2-fluoro-4-hydroxyphenyl)-2-naphthol | 1.18 mmol, 300 mg | FC1=C(C=CC(=C1)O)C=1C=C2C=CC(=CC2=CC1)O | C16H11FO2
reactant | NCS | 1.43 mmol, 191 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-Chloro-6-(2-fluoro-4-hydroxyphenyl)-2-naphthol | ClC1=C(C=CC2=CC(=CC=C12)C1=C(C=C(C=C1)O)F)O | C16H10ClFO2
